US04338434
(b) Preparation of 7-[α-(t-Butoxycarbonylamino)-furfurylacetamido]-3-acetoxymethyl-ceph-3-em-4-carboxylic acid
1.7 pts. by wt. of triethylamine and 0.1 pt. by wt. of N-methylmorpholine are added to a solution of 3.7 pts. by wt. of 2-t-butoxycarbonylamino-furfurylacetic acid in 60 pts. by vol. of abs. THF. The mixture is cooled to -25°, a solution of 1.8 pts. by wt. of chloroformic acid ethyl ester in 10 pts. by vol. of abs. THF is added and the mixture is stirred at this temperature for 15 minutes. A solution, pre-cooled to -20°, of silylated 7-aminocephalosporanic acid (7-ACS) in 40 pts. by vol. of abs. THF (prepared from 5.0 pts. by wt. of 7-ACS and 5.6 pts. by wt. of bis-trimethylsilylacetamide) is then added and the mixture is stirred for 10 minutes at -20° and allowed to come to room temperature. 80 pts. by vol. of ice-water are added, the mixture is adjusted to pH 7.3 and the THF is stripped off. The aqueous phase is extracted with ethyl acetate and is acidified at 0°-5° and again extracted with ethyl acetate. The latter ethyl acetate extracts are dried over magnesium sulphate and concentrated. The product (7.5 pts. by wt.) is obtained as a yellow foam, which can be further processed directly.

reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 2-t-butoxycarbonylamino-furfurylacetic acid | C(C)(C)(C)OC(=O)NC1(CCC(=O)O)CC=CO1 | C12H19NO5
reactant | chloroformic acid ethyl ester | C(C)OC(=O)Cl | C3H5ClO2
reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
solvent | THF | C1CCOC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 7-[α-(t-Butoxycarbonylamino)-furfurylacetamido]-3-acetoxymethyl-ceph-3-em-4-carboxylic acid | C(C)(C)(C)OC(=O)NC(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)CC1=CC=CO1 | C22H27N3O9S
